US06407120B1
4-Diphenylacetylamino-N,N-dimethyl-benzamide
A solution of 4-diphenylacetylamino-benzoic acid (150 mg, 0.45 mmol), dimethylamine (2.0 M in THF, 203 mg, 0.24 mL, 4.5 mmol), EDC (86 mg, 0.45 mmol) and HOBT (61 mg, 0.45 mmol) in CH2Cl2 (15 mL) was stirred at room temperature for 17 h. The reaction mixture was diluted with CHCl3 and washed with 10 N HCl (4 mL), sat'd aq NaHCO3 (4 mL) and sat'd aq brine. The organic solution was dried and concentrated in vacuo to give the title compound as a white solid (100 mg).

reactant | 4-diphenylacetylamino-benzoic acid | 0.45 mmol, 150 mg | C1(=CC=CC=C1)C(C(=O)NC1=CC=C(C(=O)O)C=C1)C1=CC=CC=C1 | C21H17NO3
reactant | dimethylamine | 4.5 mmol, 2.0 M, 0.24 mL, 203 mg | CNC | C2H7N
reactant | EDC | 0.45 mmol, 86 mg
reactant | HOBT | 0.45 mmol, 61 mg | C=1C=CC2=C(C1)N=NN2O | C6H5N3O
solvent | CH2Cl2 | 15 mL | C(Cl)Cl | CH2Cl2
solvent | CHCl3 | C(Cl)(Cl)Cl | CHCl3
product | 4-Diphenylacetylamino-N,N-dimethyl-benzamide | 100 mg | C1(=CC=CC=C1)C(C(=O)NC1=CC=C(C(=O)N(C)C)C=C1)C1=CC=CC=C1 | C23H22N2O2
